US09062048B2
Step B: tert-butyl (2-hydroxy-1-(1,4-dioxaspiro[4.5]decan-8-yl)ethyl)carbamate
A 250 mL round bottom flask was charged with tert-butyl (1-(1,4-dioxaspiro[4.5]decan-8-yl)allyl)carbamate (5.3 g, 17.8 mmol), prepared in the previous step, and methanol (198 mL). The mixture was cooled to −78° C. and ozone was bubbled through the solution at a rate of 3 L/min for 1 hour. The mixture turned pale blue in color after 30 minutes. After 1 hour air was bubbled through the solution for 30 minutes until the blue color disappeared. Sodium borohydride (2.7 g, 71.3 mmol) was added to the mixture in 4 portions. The mixture was gradually warmed to room temperature. After 6 h at room temperature the mixture quenched with saturated aqueous ammonium chloride. After dilution with water and extraction with ethyl acetate, the organic layer was dried over MgSO4, filtered, and concentrated in vacuo to give the product as a clear oil.

reactant | tert-butyl (1-(1,4-dioxaspiro[4.5]decan-8-yl)allyl)carbamate | 17.8 mmol, 5.3 g | O1CCOC12CCC(CC2)C(C=C)NC(OC(C)(C)C)=O | C16H27NO4
reactant | Sodium borohydride | 71.3 mmol, 2.7 g | [BH4-].[Na+]
reactant | methanol | 198 mL | CO | CH4O
product | tert-butyl (2-hydroxy-1-(1,4-dioxaspiro[4.5]decan-8-yl)ethyl)carbamate | OCC(C1CCC2(OCCO2)CC1)NC(OC(C)(C)C)=O | C15H27NO5
